US05276039
Step A: 4-chloro-1-nitro-2-(phenyl-2-propenyloxy)benzene
A solution of 5-chloro-2-nitrophenol (7 g) in dimethylformamide (40 ml) was stirred at room temperature with 1-bromo-2-phenyl-2-propene (8 ml) and potassium carbonate (5.5 g) for 18 h. The reaction mixture was diluted with water (200 ml) was extracted with ether (100 ml). The ether was washed with water (3×100 ml). The solvent was removed under reduced pressure and the residue was crystallized from hexanes. The yellow solid (8.6 g) was the desired product. m.p. 74.5°-75.5° C.

reactant | 5-chloro-2-nitrophenol | 7 g | ClC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 1-bromo-2-phenyl-2-propene | 8 ml | BrCC(=C)C1=CC=CC=C1 | C9H9Br
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-chloro-1-nitro-2-(phenyl-2-propenyloxy)benzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])OCC=CC1=CC=CC=C1 | C15H12ClNO3
